data/mechanism_extracts/Angew/10.1002_anie.201809454.json
{"doi": "10.1002_anie.201809454", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical aerobic functionalization of styrenes using O2, where Pt anode gives oxidative C=C cleavage to carbonyls and carbon anode gives oxidative dimerization to 2,5-diaryl tetrahydrofurans.", "mechanism_family": ["radical_cation", "radical_anodic", "radical_cathodic", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of styrene to its radical cation; cathodic single-electron reduction of O2 to superoxide (O2•-); electrode material dictates which species (O2•- vs neutral styrene) traps the styrene radical cation.", "key_intermediates": [{"name": "styrene radical cation (2a•+)", "smiles": null, "role": "reactive"}, {"name": "superoxide anion radical (O2•-)", "smiles": "[O-][O]", "role": "reactive"}, {"name": "1,2-dioxetane (2d, major path for cleavage)", "smiles": "O1OCC1c1ccccc1", "role": "transient"}, {"name": "styrene oxide / epoxide (2e, minor path for cleavage)", "smiles": "C1OC1c1ccccc1", "role": "transient"}, {"name": "styrene radical-cation dimer (2aa•+, THF pathway)", "smiles": null, "role": "reactive"}, {"name": "peroxy radical/zwitterion (Ph-CH(OO-)-CH2-CH(Ph)+ type, THF pathway)", "smiles": null, "role": "transient"}, {"name": "acetophenone (2b, cleavage product)", "smiles": "CC(=O)c1ccccc1", "role": "off_pathway"}, {"name": "formaldehyde (HCHO, cleavage co-product detected by GC-MS)", "smiles": "C=O", "role": "off_pathway"}, {"name": "2,5-diphenyl tetrahydrofuran (2c)", "smiles": "O1C(c2ccccc2)CCC1c1ccccc1", "role": "off_pathway"}], "electron_flow": "At Pt anode, styrene is oxidized to a radical cation that is trapped by cathodically generated O2•- to give a dioxetane (major) or epoxide (minor), which fragments to aryl ketone + HCHO. At carbon anode, O2•- adsorption is poor, so the styrene radical cation is intercepted by a second neutral styrene to form a distonic dimer cation, which then combines with O2•- and cyclizes to the 2,5-diaryl THF.", "rate_determining_step": null, "probe_reagents": [{"name": "18O2 isotope labeling", "smiles": null, "purpose": "isotope_label", "observation": "18O incorporated into both the ketone (81%) and the THF (93%, cis/trans 1:1.1), confirming O2 as the oxygen source in both reactions"}, {"name": "isolated epoxide 2e as substrate", "smiles": "C1OC1c1ccccc1", "purpose": "intermediate_trap", "observation": "Electrolysis of 2e gave only 88% acetophenone with incomplete conversion, indicating epoxide is a minor (not main) intermediate on the cleavage path"}, {"name": "GC-MS detection of HCHO", "smiles": "C=O", "purpose": "other", "observation": "Formaldehyde detected, consistent with dioxetane fragmentation"}, {"name": "DFT (B3LYP/6-31G+(d,p)) spin density", "smiles": null, "purpose": "other", "observation": "Highest spin density of styrene radical cation localized at β-position, rationalizing β-attack by O2•- or by neutral styrene"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_other", "stoichiometric_intermediate", "DFT", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "Authors do not rule out that on Pt the electrode itself adsorbs O2/O2•- and thereby delivers it to the radical cation; a radical–radical coupling pathway is also considered possible for the THF-forming step. Selectivity is explained by Pt favoring O2•- capture of the radical cation while carbon anode favors capture by neutral styrene due to raised HOMO of adsorbed styrene."}
